US05731315
B. 5-Iodo-2-(2-methoxy-ethoxymethoxy)-benzyl alcohol
To a solution of sodium hydride (1.2 g of a 60% mineral oil dispersion, 52 mmol) in 25 mL of THF at 0° C., is added 2-hydroxy-5-iodo-benzaldehyde (7.0 g, 28 mmol). To the resulting solution is added 2-methoxy-ethoxymethoxy chloride (3.4 mL, 30 mmol) and 4 mL of 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone. The solution is allowed to warm to ambient temperatures. After 45 min., the solution is cooled to -15° C. and 6 mL of a 2M solution of sodium borohydride in THF is added. The solution is stirred for 10 min. After this time, 24 mL of a 2M HCl solution in water is added. The resulting solution is diluted with ether, washed with water and saturated NaCl. The organic layer is dried over MgSO4, filtered and concentrated. The resulting crude material is purified by column chromatography eluting with 40% EtOAc/hexanes to give the title compound (7.6 g, 22.5 mmol) as a white solid.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-hydroxy-5-iodo-benzaldehyde | 28 mmol, 7.0 g | OC1=C(C=O)C=C(C=C1)I | C7H5IO2
reactant | 2-methoxy-ethoxymethoxy chloride | 30 mmol, 3.4 mL | COCCOCOCl | C4H9ClO3
reactant | sodium borohydride | [BH4-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
solvent | 1,3-dimethyl-3,4,5,6-tetrahydro-2(1H)-pyrimidinone | 4 mL | CN1C(N(CCC1)C)=O | C6H12N2O
product | 5-Iodo-2-(2-methoxy-ethoxymethoxy)-benzyl alcohol | 22.5 mmol, 7.6 g | IC=1C=CC(=C(CO)C1)OCOCCOC | C11H15IO4
